US05853930
5.0 g (1.0 equivalent) of 3-methoxy-5-nitrosalicylaldehyde and 6.03 g (1.1 equivalents) of p-nitrobenzyl bromide were dissolved in 15 ml of 1,4-dioxane, and then 13.5 g (3.5 equivalents) of 1,8-diazabicyclo[5.4.0]undeca-7-ene was added thereto. The resulting mixture was heated at about 100° C. for three hours with stirring, and then cooled to room temperature. Thereafter, the resulting solid substance was filtered off and sufficiently washed with ethanol. Thus, 4.55 g of 2-(p-nitrophenyl)-5-nitro-7-methoxybenzo[b]furan was obtained (yield: 70%).

reactant | 3-methoxy-5-nitrosalicylaldehyde | 5.0 g, 1.0 equivalent | COC1=C(C(C=O)=CC(=C1)[N+](=O)[O-])O | C8H7NO5
reactant | p-nitrobenzyl bromide | 6.03 g, 1.1 equivalents | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | 1,8-diazabicyclo[5.4.0]undeca-7-ene | 13.5 g, 3.5 equivalents | N12CCCCCC2=NCCC1 | C9H16N2
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 2-(p-nitrophenyl)-5-nitro-7-methoxybenzo[b]furan | 4.55 g, yield: 70% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC2=C(O1)C(=CC(=C2)[N+](=O)[O-])OC | C15H10N2O6
